US05110814
Preparation of the azelastine solution
A premix is prepared of 440 g of azelastine-HCl, 360 mg of micro crystalline cellulose and 200 g of talcum. This premix together with 6000 g of lactose monohydrate, 2870 g of microcrystalline cellulose and 100 g of highly disperse silicon dioxide are passed through a sieve and homogenized in a sutable mixer. 30 g of magnesium stearate are sieved into the mixture so obtained and the resulting mixture is homogenized one more time. The mass so obtained is pressed into tablets weighing 100 mg having a diameter of 6 mm and a radius of curvature of 5.5 mm.

reactant | azelastine HCl | 440 g | CN1CCCC(CC1)N2C(=O)C=3C=CC=CC3C(=N2)CC=4C=CC(=CC4)Cl.Cl
reactant | lactose monohydrate | 6000 g | O.OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO
reactant | silicon dioxide | [Si](=O)=O | O2Si
product | azelastine | CN1CCCC(CC1)N2C(=O)C=3C=CC=CC3C(=N2)CC=4C=CC(=CC4)Cl | C22H24ClN3O
